US07268147B2
Preparation 43: Methyl-[3-(2-oxopropyl)phenyl]acetate
Tributyltin methoxide (28.3 ml, 98.0 mmol), methyl-(3-bromophenyl)acetate (Preparation 44) (15.0 g, 65.0 mmol), isopropenyl acetate (10.8 ml, 98.0 mmol), palladium(II)acetate (750 mg, 3.30 mmol) and tri-ortho-tolylphosphine (2.00 g, 6.5 mmol) were stirred together in toluene (75 ml) at 100° C. under nitrogen for 5 hours. After cooling the reaction was diluted with ethyl acetate (150 ml) and 4M aqueous potassium fluoride solution (90 ml) and stirred for 15 minutes. The mixture was filtered through arbocel and the organic phase separated and reduced in vacuo. The residue was purified by flash column chromatography silica gel eluting with a solvent gradient of diethyl ether:pentane (0:100 to 25:75, by volume) changing to dichloromethane to give the title compound as a pale yellow oil (12.6 g).

reactant | Tributyltin methoxide | 98.0 mmol, 28.3 ml | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | methyl-(3-bromophenyl)acetate | 65.0 mmol, 15.0 g | COC(CC1=CC(=CC=C1)Br)=O | C9H9BrO2
reactant | isopropenyl acetate | 98.0 mmol, 10.8 ml | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-ortho-tolylphosphine | 6.5 mmol, 2.00 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | potassium fluoride | 4M, 90 ml | [F-].[K+]
catalyst | palladium(II)acetate | 3.30 mmol, 750 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl-[3-(2-oxopropyl)phenyl]acetate | 12.6 g | COC(CC1=CC(=CC=C1)CC(C)=O)=O | C12H14O3
